2193-07-23 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - mild hypoxia with sat of 94% on RA when arriving to the floor -
   ordered cxr and incentive spirometry.  My read of CXR showed bilateral
   pleural effusions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2193-7-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-7-23**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-7-23**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 89 (86 - 89) bpm
   BP: 127/91(94) {116/65(79) - 127/95(100)} mmHg
   RR: 15 (15 - 24) insp/min
   SpO2: 94%
             Total In:
             920 mL
   PO:
             TF:
   IVF:
   920 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    920 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   216
   13.3
   40.2
   6.3
        [image002.jpg]
   INR: 1.2, PTT: 27.3, PT: 14.0
   ALT: 169, AST: 196, AP: 631, Tbili: 17.4, Dbili: 14.8
   Ca: 8.3, Phosphorus: 2.5, Mg: 1.9
   .
   Pending: GI biopsy of stomach ([**2193-7-22**])
   .
   Imaging:
   CXR ([**2193-7-23**]): My read: blunting of costodiaphagmatic angles bilaterally
   -> no other xray for comparison
   Assessment and Plan
   Assessment and Plan: The patient is a 80 yoM w/ a h/o gastric cancer
   s/p billroth II in '[**91**] presented initially to an OSH w/ jaundice on
   [**7-18**] and was transferred to [**Hospital1 19**] for ERCP on [**7-22**], post procedure
   developed hematemesis x 2, was hemodynamically stable, transferred to
   the [**Hospital Unit Name 1**] for closer monitoring.
   .
   # GI Bleed: the patient experienced hematemesis post ERCP.  He had
   biopsies taken during his ERCP, consider redevelopment of gastric
   carcinoma.  Also had contact bleeding noted in the area of his friable
   gastric mucosa.  He also has grade III esophagitis noted, another
   possible source.
   -obtain 2 large bore PIVs
   -send hct and type and screen
   -IV PPI [**Hospital1 **]
   -zofran prn
   -INR at OSH slightly elevated at 1.3, PTT was 30.  Repeat Coags show
   INR 1.2.
   -transfuse for hct < 30 for now given that his hct is currently 40.2.
   -hold atenolol
   -tele
   -continue unasyn for GI bleed
   -f/u ERCP recs, ERCP is aware of hematemesis
   .
   # Gastric cancer: s/p resection, chemo / radiation.
   -f/u biopsy results to evaluate for recurrance
   .
   # Jaundice:
   -resend LFTs
   -at OSH mainly direct hyperbilirubinemia, AST and ALT in 200-400 range
   and alk phos to 500s.  T bili had been 11.4 at the highest on [**2193-7-21**].
   Liver enzymes still elevated, AP and T bili are trending upwards.
   -will need IR for PTC and biliary drainage
   .
   # Hypoxia: mild hypoxia to sat of 94%.  He has atelectasis, ascites,
   pleural effusions and these are likely contributing factors.  Only ?
   atelectasis on OSH CXR on [**7-18**].  No fevers, cough, lungs are clear, no
   h/o CHF and JVP is not elevated.  Likely related to ascites and pleural
   effusions causing atelecatsis.
   -incentive spirometry
   -PA / Lat CXR
   .
   # HTN: hold atenolol as above
   .
   FEN: NPO for now, replete lytes prn
   -add on albumin
   -add ensure to meals when able to take POs
   .
   Prophylaxis: pneumoboots, hold off on sc heparin for now
   .
   Access: peripherals
   .
   Code:  Full (discussed with patient)
   .
   Communication: wife [**Name (NI) 469**] [**Telephone/Fax (1) 9755**], [**Name2 (NI) **]er [**Name (NI) 9756**] [**Telephone/Fax (1) 9757**]
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-7-23**] 03:05 AM
   22 Gauge - [**2193-7-23**] 06:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Other events and plans:
   O2 sats went down to 80s on room air, put on 2L NC.
   PICC line placement later if after procedure he needs lots of IVF or
   blood products
   Unclear why pt is on abx as pt has no cholangitis. Check with OSH.
   f/u ERCP plan re PTC drainage of CBD
   f/u repeat hct at 9am
   hold off on sc heparin given hematemesis.
   pleural effusion: [**Female First Name (un) 217**] later to see if it is malignant. f/u albumin.
   OSH record to see if it was ever tapped.
   Dispo: if stable after procedure, can transfer to floor or back to OSH.
   Need to clarify whether he has an oncologist.
   ------ Protected Section Addendum Entered By:[**Name (NI) 9764**] [**Name8 (MD) 9765**], MD
   on:[**2193-7-23**] 09:48 ------

2193-07-23 09:47:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    80 yo M h/o gastric Ca s/p prior resection/chemo/xrt presenting to OSH
   [**7-18**] w/ obstructive jaundice (bili 6
17) transferrred from OSH for ERCP
   with bx c/b UGIB (hematemesis)
   On ERCP found grade 3 esophagitis in distal es, friable gastric
   mucosa/edematous esp at anastomosis c/ sg contact bleeding. Unable to
   reach the ampulla and engage. Rec IR for PTC and biliary drainage.
   24 Hour Events:
   No further episodes of hematemesis
   No hemodynamic instability
   desat to 86% with sleeping and placed on 2L NC
                       History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2193-7-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-7-23**] 04:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-7-23**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 90 (86 - 90) bpm
   BP: 120/86(94) {116/65(79) - 130/95(100)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,364 mL
   PO:
             TF:
   IVF:
   1,364 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,014 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases, No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: [**Doctor Last Name **] and lower quandrants, no r/g
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   40.6 %
        [image002.jpg]
                             [**2193-7-23**]  08:55 AM
   Hct
   40.6
   Fluid analysis / Other labs: bx results pending
   Imaging: CXR with small lung volumes, b/l effusions
   Microbiology: no micro pending
   Assessment and Plan
   80 yo M h/o gastric Ca s/p prior resection/chemo/xrt presenting to OSH
   [**7-18**] w/ obstructive jaundice (bili 6
17) transferrred  for ERCP in ICU
   for management of post procedure UGIB (hematemesis)
   Issues include:
          UGIB
          Biliary obstruction
          Gastric CA
          Pleural effusions
          Hypoxia
   # UGIB: in setting of procedure.   With friable mucosa seen and bx at
   prior suture site.  Suspect post procedural bleeding, versus
   esophagitis/gastritis. H/h remain stable and never tachy or
   hypotensive.  Continue h/h monitoring, PPI, NPO, has PIV access. No
   current indication for CVL/A- line at present but will place as needed.
   # New onset jaundice: in setting of CBD stricture, unable to reach
   ampulla by ercp, plan for IR placed biliary drain.  No evidence
   clinically of cholangitis.  Would continue ABX for now--No clear
   indication for antibx based on current clinical picture though at risk
   for bacteremia in setting of drainage. Trend LFTs.
    # Gastric Ca- abnormalities at anastamosis are highly concerning for
   recurrent ca, F/u BX results. Family to bring OSH imaging for review.
   # Bilat effusions
Seen on osh imaging since [**Month (only) **] (per report).  Clarify
   if have been sampled as concern for possible malignancy. Check albumin.
   #Hypoxia
Stable o2 requirement, likely related to known effusions and
   component of OSA.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:   NPO
   Bowel regimen
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-7-23**] 03:05 AM
   22 Gauge - [**2193-7-23**] 06:00 AM
   Consider picc placement
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for now pending procedure, if remains stable can
   transfer out to floor.
   Total time spent: 45 minutes
   ------ Protected Section ------
   Post IR drainage procedure pt tachycardic, hypotensive (high 90
s, MAPS
   > 60), w/ rigors and increased O2 requirement.  Concern for sepsis from
   biliary source or possible aspiration pna.
   Pan cx
s sent.
   CXR ordered and shows small lung volumes with increased haziness
   (atelectasis or possibly early asp pna) at r base.
    Checking abg, lactate, cbc with diff.
   Will palce a-line and central line for improved access.
   Additional crit care time in review and discussion: 20 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2193-7-23**] 06:25 PM ------

2193-07-24 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2193-7-23**] 12:57 PM
 EKG - At [**2193-7-23**] 04:16 PM
   pt came back from IR confused, agitated, restless, tachycardic and c/o
   being cold and feeling like he is going to die. Agitated about foley in
   place and wants to pee. Skin mottled, cool to touch.
 BLOOD CULTURED - At [**2193-7-23**] 04:49 PM
 URINE CULTURE - At [**2193-7-23**] 04:49 PM
 ARTERIAL LINE - START [**2193-7-23**] 07:23 PM
   [**7-23**]
   - OSH contact[**Name (NI) **] for the reason for abx, awaiting call back
   - underwent PTC today by IR, biliary obstruction was seen at the level
   of the upper common bile duct. Obstruction traversed and drain placed.
   - after coming back from PTC, pt hypotensive, SBP down to 80s,
   tachycardia to 110s. A-line placed. BP improved to over 100 after 500cc
   [**Last Name (LF) **], [**First Name3 (LF) **] no CVL was placed
   - UOP low, s/p 500cc NS [**First Name3 (LF) **] x4 --> UOP improved
   - mild hypoxia - ordered cxr and incentive spirometry. initially put on
   face mask, sats improved. later on 5L NC.
   - ABG 7.46/35/121/26, Lactate:1.8. K:3.0-->received 40meq K,
   - updated wife and daughter
   - obtained oncologist's name and phone number, pt has been followed by
   oncology
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2193-7-23**] 11:06 AM
   Vancomycin - [**2193-7-23**] 05:26 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-7-23**] 05:26 PM
   Piperacillin - [**2193-7-24**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-7-24**] 04:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-7-24**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 102 (79 - 131) bpm
   BP: 108/59(76) {93/57(70) - 141/86(104)} mmHg
   RR: 19 (13 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,326 mL
                                                                  1,458 mL
   PO:
             TF:
   IVF:
                                                                  5,326 mL
                                                                  1,458 mL
   Blood products:
   Total out:
                                                                    892 mL
                                                                    300 mL
   Urine:
                                                                    852 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   150 mL
   Balance:
                                                                  4,434 mL
                                                                  1,158 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.45/35/86.[**Numeric Identifier 143**]/23/0
   Physical Examination
   Gen: A+Ox3, NAD
   HEENT: scleral icterus. No JVD appreciated
   CV: RRR with ectopic beats. No m/r/g
   Lungs: Bibasilar fine crackles
   Abd: + BS, S/ND, NT to palpation.  Drain dressing in place, clean and
   dry, draining dark serosanguenous fluid
   Ext: no edema or cyanosis
   Labs / Radiology
   180 K/uL
   12.1 g/dL
   126 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   21 mg/dL
   105 mEq/L
   137 mEq/L
   36.0 %
   8.5 K/uL
         [image002.jpg]
                             [**2193-7-23**]  08:55 AM
                             [**2193-7-23**]  04:41 PM
                             [**2193-7-23**]  07:05 PM
                             [**2193-7-23**]  07:22 PM
                             [**2193-7-24**]  03:42 AM
                             [**2193-7-24**]  04:18 AM
   WBC
   2.2
   7.5
   8.5
   Hct
   40.6
   47.4
   35.9
   36.0
   Plt
   245
   166
   180
   Cr
   0.7
   0.7
   TCO2
   26
   25
   Glucose
   115
   121
   126
   Other labs: PT / PTT / INR:13.6/27.4/1.2,
   ALT / AST:147/205, Alk Phos / T Bili:496/15.3,
   Differential-Neuts:85.2 %, Band:12.0 %, Lymph:7.8 %, Mono:6.4 %,
   Eos:0.4 %,
    Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL, LDH:260 IU/L, Ca++:7.7 (9.06
   corrected) mg/dL, Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Assessment and Plan: The patient is a 80 yoM w/ a h/o gastric cancer
   s/p billroth II in '[**91**] presented initially to an OSH w/ jaundice on
   [**7-18**] and was transferred to [**Hospital1 19**] for ERCP on [**7-22**], post procedure
   developed hematemesis x 2, was hemodynamically stable, transferred to
   the [**Hospital Unit Name 1**] for closer monitoring.
   # Sepsis: Bld, urine, MRSA Cx are pending.  Fluid Cx showed no PMNs/
   microorganisms.  Remains afebrile.
   - recheck WBC with diff
   - continue with vanc and zosyn until cx results.
   - consider dx tap of ascites fluid
   # GI Bleed: the patient experienced hematemesis post ERCP.  He had
   biopsies taken during his ERCP, consider redevelopment of gastric
   carcinoma.  Also had contact bleeding noted in the area of his friable
   gastric mucosa.  He also has grade III esophagitis noted, another
   possible source.
   -IV PPI [**Hospital1 **]
   -zofran prn
   -INR at OSH slightly elevated at 1.3, PTT was 30.  Repeat Coags show
   INR 1.2.
   -transfuse for hct < 30 for now given that his hct is currently 36.
   -hold atenolol
   -tele
   -continue unasyn for GI bleed
   -f/u ERCP recs, ERCP is aware of hematemesis
   .
   # Gastric cancer: s/p resection, chemo / radiation.
   -f/u biopsy results to evaluate for recurrence
   .
   # Jaundice: LFTs are improving s/p PCT.
   -resend LFTs
   -at OSH mainly direct hyperbilirubinemia, AST and ALT in 200-400 range
   and alk phos to 500s.  T bili had been 11.4 at the highest on [**2193-7-21**].
   Liver enzymes still elevated, AP and T bili are trending upwards.
   .
   # Hypoxia: mild hypoxia to sat of 94%.  He has atelectasis, ascites,
   pleural effusions and these are likely contributing factors.  Likely
   related to ascites and pleural effusions causing atelecatsis. No
   fevers, no h/o CHF and JVP is not elevated.  This morning, stated cough
   with green sputum.
   - send for sputum culture
   - PA / Lat CXR
   - continue spirometry
   .
   # HTN: hold atenolol as above
   .
   FEN: clear liquids for now, replete lytes prn
   -add ensure to meals when able to take POs
   .
   Prophylaxis: pneumoboots, hold off on sc heparin for now
   .
   Access: peripherals
   .
   Code:  Full (discussed with patient)
   .
   Communication: wife [**Name (NI) 469**] [**Telephone/Fax (1) 9755**], [**Name2 (NI) **]er [**Name (NI) 9756**] [**Telephone/Fax (1) 9757**]
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-7-23**] 03:05 AM
   22 Gauge - [**2193-7-23**] 06:00 AM
   Arterial Line - [**2193-7-23**] 07:23 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: IV protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2193-07-24 10:32:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo M h/o gastric Ca s/p prior resection/chemo/xrt presenting to OSH
   [**7-18**] w/ obstructive jaundice (bili [**5-8**]) transferrred  for ERCP in ICU
   for management of post procedure UGIB (hematemesis)
   24 Hour Events:
 EKG - At [**2193-7-23**] 12:57 PM
 EKG - At [**2193-7-23**] 04:16 PM
 BLOOD CULTURED - At [**2193-7-23**] 04:49 PM
 URINE CULTURE - At [**2193-7-23**] 04:49 PM
 ARTERIAL LINE - START [**2193-7-23**] 07:23 PM
   IR PTC paced-->obstruction at level of CBD with drain placed.
   Hypotensive and tachycardic and hypoxia post-procedure.  A-line
   placed.  BP/HR improved with 500 cc IVF.  U/o responded to additional
   IVFs (2.0L).  Broad anrtibx started (zosyn, vanco)
                       History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2193-7-23**] 11:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2193-7-23**] 05:26 PM
   Piperacillin - [**2193-7-24**] 02:00 AM
   Vancomycin - [**2193-7-24**] 08:11 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-7-24**] 04:36 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-7-24**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.8
   HR: 77 (73 - 131) bpm
   BP: 103/51(66) {93/51(66) - 141/86(104)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,326 mL
                                                                  1,755 mL
   PO:
             TF:
   IVF:
                                                                  5,326 mL
                                                                  1,755 mL
   Blood products:
   Total out:
                                                                    892 mL
                                                                    660 mL
   Urine:
                                                                    852 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   450 mL
   Balance:
                                                                  4,434 mL
                                                                  1,095 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.45/35/86.[**Numeric Identifier 143**]/23/0
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese
   Eyes / Conjunctiva: PERRL, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: b/b)
   Abdominal: Soft, Non-tender, Bowel sounds present, PTC draining
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Rash:
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   12.1 g/dL
   180 K/uL
   126 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   21 mg/dL
   105 mEq/L
   137 mEq/L
   36.0 %
   8.5 K/uL
        [image002.jpg]
                             [**2193-7-23**]  08:55 AM
                             [**2193-7-23**]  04:41 PM
                             [**2193-7-23**]  07:05 PM
                             [**2193-7-23**]  07:22 PM
                             [**2193-7-24**]  03:42 AM
                             [**2193-7-24**]  04:18 AM
   WBC
   2.2
   7.5
   8.5
   Hct
   40.6
   47.4
   35.9
   36.0
   Plt
   245
   166
   180
   Cr
   0.7
   0.7
   TCO2
   26
   25
   Glucose
   115
   121
   126
   Other labs: PT / PTT / INR:13.6/27.4/1.2, ALT / AST:147/205 (trending
   down), Alk Phos / T Bili:496/15.3 (trending down, was 21.8),
   Differential-Neuts:85.2 %, Band:12.0 %--> 0% this am, Lymph:7.8 %,
   Mono:6.4 %, Eos:0.4 %, Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL,
   LDH:260 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Imaging: cxr--b/l asd (pna vs atelectasis) and effusions
   Microbiology: bl, urine pending
   PTC drainage no borg
   Assessment and Plan
   80 yo M h/o gastric Ca s/p prior resection/chemo/xrt presenting to OSH
   [**7-18**] w/ obstructive jaundice (bili 6
17) transferrred  for ERCP in ICU
   for management of post procedure UGIB (hematemesis) course c/b
   hypotension, tachycarida and hypoxia post PTC placement
    Issues include:
              Sepsis post ptc placement with hypotension, tachycardia,
   increased hypoxia now improved
          Biliary obstruction
              Pleural effusions
          Hypoxia
              UGIB
          Gastric CA
   #  Sepsis-hypotension post procedure, now resolved after IVFs.  Highest
   concern for biliary source with transient bacteremia in setting of PTC
   placement, though also possibly [**12-24**] asp event in setting of
   intubation/extubation.  Continue empiric broadened antbx coverage
   (vanco/aosyn).  F/u cx data.
   # Hypoxia
Increased O2 requirementpost PTC, now weaned back to 2 L NC.
   Likely related to known effusions, basilar atelectasis, component of
   OSA.  And possibly asp pna.  Will continue antibx as above and follow
   cxr.  Incentive spirometer.
   # New onset jaundice: in setting of CBD stricture, very concerning for
   malignancy, unable to reach ampulla by ercp, now s/p PTC.  ERCP team
   plans for repeat attempt at stent placement with brushings. Clarify
   time course, likely end of week. Continue to follow LFTs which are now
   trending down.
    # Gastric Ca- abnormalities at anastamosis are highly concerning for
   recurrence. F/u BX results. Rads to review OSH imaging
   # Bilat effusions
Seen on osh imaging since [**Month (only) **] (per report).
   Increased in setting of fluid resus. Check albumin as nutirional status
   poor X months and third spacing.  Clarify if ever, sampled as concern
   for possible malignancy. Check abd us to eval for ascities tracking,
   and consider dx para.
   # UGIB: in setting of procedure (ercp).   With friable mucosa seen and
   bx at prior suture site.  Suspect post procedural bleeding, versus
   esophagitis/gastritis. H/h have remained stable and no further bleeding
   seen.  Continue PPI
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Advance to clears, as tolerates.   Nutritional status may be an ongoing
   problem. [**Name (NI) 133**] d/w GI for their perspective regarding PEG tube
   placement.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2193-7-23**] 03:05 AM
   22 Gauge - [**2193-7-23**] 06:00 AM
   Arterial Line - [**2193-7-23**] 07:23 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2193-07-25 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**7-24**]
   - Abd U/S: moderately large amount of fluid throughout the abdomen,
   with largest pockets identified in the left lower quadrant.
   - can consider tap tomorrow, but will wait to GI path reports
   - should be getting GI path in AM
   - IR: brushings for cytology on Fri, defer stenting until tissue
   diagnosis, NPO at MN on Thurs
   - ERCP recs: need brushings of biliary stricture before stenting,
   continue abx, monitor LFTs, F/U biopsies
   - talked to [**Known lastname 9802**] family -> updated them on his status/plan
   - no BM still, did not get the Bisacodyl [**Last Name (LF) 9803**], [**First Name3 (LF) **] in the AM
   - UOP has been 15-50cc
   - still clear liquids, did not advance further
   - Reglan? for gastric motility, nausea
   - ~12 beat SVT in 170s, asymptomatic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2193-7-23**] 11:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2193-7-23**] 05:26 PM
   Vancomycin - [**2193-7-24**] 08:35 PM
   Piperacillin - [**2193-7-25**] 02:12 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-7-25**] 04:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-7-25**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 87 (71 - 87) bpm
   BP: 131/70(90) {98/47(61) - 131/71(221)} mmHg
   RR: 21 (12 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,961 mL
                                                                    178 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  2,781 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    350 mL
   Urine:
                                                        450 mL (~30/2 hrs)
                                                                    250 mL
   NG:
   Stool:
   Drains:
                                                                    700 mL
                                                                    100 mL
   Balance:
                                                                  1,811 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Gen: A+O to person, place, and time. NAD
   Neck: No JVD, no hepatojugular reflex
   CV: RRR with occasional ectopic beats. NL S1/S2. No S3/S4 or murmurs
   Lungs: Dull sounds bibasally with some fine crackles
   Abd: +BS, S/ND, NT to palpation
   Ext: Peripheral pulses intact. No edema
   Labs / Radiology
   137 K/uL
   11.2 g/dL
   98 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.3 mEq/L
   20 mg/dL
   102 mEq/L
   131 (137 mEq/L
   33.7 %
   5.6 K/uL
        [image002.jpg]
                             [**2193-7-23**]  08:55 AM
                             [**2193-7-23**]  04:41 PM
                             [**2193-7-23**]  07:05 PM
                             [**2193-7-23**]  07:22 PM
                             [**2193-7-24**]  03:42 AM
                             [**2193-7-24**]  04:18 AM
                             [**2193-7-25**]  04:11 AM
   WBC
   2.2
   7.5
   8.5
   5.6
   Hct
   40.6
   47.4
   35.9
   36.0
   33.7
   Plt
   245
   166
   180
   137
   Cr
   0.7
   0.7
   0.6
   TCO2
   26
   25
   Glucose
   115
   121
   126
   98
   Other labs: PT / PTT / INR:13.6/27.4/1.2,
   ALT / AST:109/118 (147/205) , Alk Phos / T Bili:385/13.1 (496/15.3),
   Lipase/6,
   ([**7-24**]) Differential-Neuts:85.2 %, Band:12.0 %, Lymph:7.8 %, Mono:6.4 %,
   Eos:0.4 %,
   Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL, LDH:234 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Urine Chem: Cr/Na: 156/32
   Urine Osm: 708
   Bld/Urine/MRSA Cx
Fluid (biliary drain): NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. NO MICROORGANISMS S
EEN.
CXR ([**7-25**])
Abdominal U/S ([**7-24**]):
Limited ultrasound assessment was performed to determine the degree of ascites.
There is a moderately large amount of fluid throughout the abdomen, with largest
 pockets identified in the left lower quadrant.
IMPRESSION: Moderate ascites.
   Assessment and Plan
   Assessment and Plan: The patient is a 80 yoM w/ a h/o gastric cancer
   s/p billroth II in '[**91**] presented initially to an OSH w/ jaundice on
   [**7-18**] and was transferred to [**Hospital1 19**] for ERCP with post procedure
   hematemesis x 2, , transferred to the [**Hospital Unit Name 1**] for closer monitoring.on
   [**7-22**] with PCT on [**7-23**].
   # Sepsis: Bld, urine cx pending.  Fluid gram stain showed no PMNs/
   microorganisms; fluid cx grew GNRs.  Currently remains afebrile.
   - recheck WBC with diff
   - continue with zosyn
   - discontinue vanco
   - consider dx tap of ascites fluid if pt.
s status worsens
   # GI Bleed: the patient experienced hematemesis post ERCP.  He had
   biopsies taken during his ERCP, consider redevelopment of gastric
   carcinoma.  Also had contact bleeding noted in the area of his friable
   gastric mucosa.  He also has grade III esophagitis noted, another
   possible source. Patient is currently hemodynamically stable.
   -IV PPI [**Hospital1 **]
   -zofran prn
   -INR at OSH slightly elevated at 1.3, PTT was 30.  Repeat Coags show
   INR 1.2.
   -transfuse for hct < 30 for now given that his hct is currently 36.
   -hold atenolol
   -tele
   .
   # Gastric cancer: s/p resection, chemo / radiation.
   -f/u biopsy results to evaluate for recurrence
   .
   #Hyponatremia: Na of 131, possibly due to intravascular hypovolemia vs
   SIADH.
   - fluid bolus while limiting free water
   - recheck Na levels later in the day
   - pain meds for pain control
   # Jaundice: At OSH mainly direct hyperbilirubinemia, AST and ALT in
   200-400 range and alk phos up to 700s.  T bili had been 21.8 at the
   highest on [**2193-7-23**].  LFTs are improving s/p PCT.
   -continue monitoring LFTs
   .
   # Hypoxia: mild hypoxia to sat of 94%.  He has atelectasis, ascites,
   pleural effusions and these are likely contributing factors.  Likely
   related to ascites and pleural effusions causing atelecatsis. No
   fevers, no h/o CHF and JVP is not elevated
   - PA / Lat CXR
   - continue spirometry
   .
   # HTN: hold atenolol as above
   .
   FEN: ADAT, NPO at midnight tonight
   .
   Prophylaxis: pneumoboots, hold off on sc heparin for now
   .
   Access: a-line, 22 gauge
   .
   Code:  Full (discussed with patient)
   .
   Communication: wife [**Name (NI) 469**] [**Telephone/Fax (1) 9755**], [**Name2 (NI) **]er [**Name (NI) 9756**] [**Telephone/Fax (1) 9757**]
   .
   Disposition: Transfer to floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-7-23**] 07:23 PM
   22 Gauge - [**2193-7-24**] 10:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: Transfer to floor today

2193-07-25 12:49:00 Physician Attending Progress Note
Chief Complaint: GIB, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo M h/o gastric Ca s/p prior resection/chemo/xrt presenting to OSH
   [**7-18**] w/ obstructive jaundice (bili [**5-8**]) transferrred  for ERCP in ICU
   for management of post procedure UGIB (hematemesis) course c/b
   hypotension, tachycarida and hypoxia post PTC placement
   24 Hour Events:
   ruq us--> fluid, largest fluid pocket at LLL
   IR plans to brush but not place stent tomorrow
   12 beat run SVT, asx
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2193-7-23**] 11:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2193-7-23**] 05:26 PM
   Vancomycin - [**2193-7-25**] 08:18 AM
   Piperacillin - [**2193-7-25**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-7-25**] 04:41 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-7-25**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 79 (71 - 87) bpm
   BP: 94/89(92) {94/55(69) - 131/89(221)} mmHg
   RR: 17 (13 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,961 mL
                                                                    978 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  2,781 mL
                                                                    978 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    413 mL
   Urine:
                                                                    450 mL
                                                                    313 mL
   NG:
   Stool:
   Drains:
                                                                    700 mL
                                                                    100 mL
   Balance:
                                                                  1,811 mL
                                                                    565 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : b/b)
   Abdominal: Soft, Non-tender, Bowel sounds present, ptc draining
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   137 K/uL
   98 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.3 mEq/L
   20 mg/dL
   102 mEq/L
   131 mEq/L
   33.7 %
   5.6 K/uL
        [image002.jpg]
                             [**2193-7-23**]  08:55 AM
                             [**2193-7-23**]  04:41 PM
                             [**2193-7-23**]  07:05 PM
                             [**2193-7-23**]  07:22 PM
                             [**2193-7-24**]  03:42 AM
                             [**2193-7-24**]  04:18 AM
                             [**2193-7-25**]  04:11 AM
   WBC
   2.2
   7.5
   8.5
   5.6
   Hct
   40.6
   47.4
   35.9
   36.0
   33.7
   Plt
   245
   166
   180
   137
   Cr
   0.7
   0.7
   0.6
   TCO2
   26
   25
   Glucose
   115
   121
   126
   98
   Other labs: PT / PTT / INR:13.6/27.4/1.2, ALT / AST:109/118
   (decreasing), Alk Phos / T Bili:385/13.1 (decreasing), Amylase /
   Lipase:/6, Differential-Neuts:85.2 %, Band:12.0 %, Lymph:7.8 %,
   Mono:6.4 %, Eos:0.4 %, Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL,
   LDH:234 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: urine: fena 0.1, osm 700
   Microbiology: PTC-->gnr, cx pending
   bl/urine ngtd
   Assessment and Plan
   80 yo M h/o gastric Ca s/p prior resection/chemo/xrt presenting to OSH
   [**7-18**] w/ obstructive jaundice (bili 6
17) transferrred  for ERCP in ICU
   for management of post procedure UGIB (hematemesis) course c/b
   hypotension, tachycarida and hypoxia post PTC placement, now doing well
   with stable hemodynamics and resp status
     Issues include:
              Sepsis post ptc placement with hypotension, tachycardia,
   increased hypoxia now improved
          Biliary obstruction
              Pleural effusions
          Hypoxia
              UGIB
          Gastric CA
              hyponatremia
              thromboyctopenia
   #  Sepsis-hypotension post procedure, now resolved after IVFs. Highest
   concern for biliary source with transient bacteremia in setting of PTC
   placement, though also possibly [**12-24**] asp event in setting of
   intubation/extubation.  Bl cx ngtd.  GNR is ptc drain.  Will d/c vanco
   and continue zosyn epnding cx data.
   # Hypoxia
weaned back to 2 L NC. Likely related to known effusions,
   basilar atelectasis, component of OSA.  Incentive spirometer.
   # hyponatremia-recheck labs to confirm. If acuarrate, difficult volume
   status as total body volume up but intrasvascularrly dry. Taking poor
   POs. Will limit free h2o and give fluid challenge.
   # New onset jaundice: in setting of CBD stricture, very concerning for
   malignancy, unable to reach ampulla by ercp, now s/p PTC.  ERCP team
   plans for repeat attempt at stent placement with brushings. Clarify
   time course, likely end of week. Continue to follow LFTs which are now
   trending down.
   # Gastric Ca- abnormalities at anastamosis are highly concerning for
   recurrence. F/u BX results. Rads to review OSH imaging
   # Bilat effusions
Seen on osh imaging since [**Month (only) **] (per report).
   Increased in setting of fluid resus. Check albumin as nutirional status
   poor X months and third spacing.  Clarify if ever, sampled as concern
   for possible malignancy. Check abd us to eval for ascities tracking,
   and consider dx para.
   # UGIB: in setting of procedure (ercp).   With friable mucosa seen and
   bx at prior suture site.  Suspect post procedural bleeding, versus
   esophagitis/gastritis. H/h have remained stable and no further bleeding
   seen.  Continue PPI
   # Thrombocytopenia--montior, on boots
   PT consult
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Comments: advance diet as tolerates, NPO after MN for proceudre
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-7-23**] 07:23 PM
   22 Gauge - [**2193-7-24**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes
   Patient is critically ill